US05866567
(3aR*,10aS*)-9-[(4-Benzenesulfonamido)benzyl]-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one
To a solution of (3aR*,10aS*)-9-(4-aminobenzyl)-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one hydrobromide (200 mg, 0.35 mmol) in 1,2-dichloroethane (30 mL) was added benzenesulfonyl chloride (61 mg, 0.35 mmol) as well as triethylamine (0.055 mL, 0.40 mmol) and the mixture was stirred at room temperature for 1.5 hours. After addition of saturated aqueous NaHCO3 solution, the aqueous layer was separated and the organic layer was washed with saturated aqueous NaCl solution, dried over MgSO4, and concentrated under reduced pressure to remove the solvent. The residue was crystallized from diethyl ether to provide 110 mg (yield 50%) of the title compound. m.p. 212°-214° C.

reactant | (3aR*,10aS*)-9-(4-aminobenzyl)-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one hydrobromide | 0.35 mmol, 200 mg | Br.NC1=CC=C(CN2C3=C(N([C@H]4[C@@H](C2=O)CCC4)C(CN4C(C=2C(C4=O)=CC=CC2)=O)=O)C=CC=C3)C=C1
reactant | benzenesulfonyl chloride | 0.35 mmol, 61 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | triethylamine | 0.40 mmol, 0.055 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
product | (3aR*,10aS*)-9-[(4-Benzenesulfonamido)benzyl]-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 110 mg, yield 50% | C1=CC=C(C=C1)S(=O)(=O)NC(C1=CC=CC=C1)N1C2=C(N([C@H]3[C@@H](C1=O)CCC3)C(CN3C(C=1C(C3=O)=CC=CC1)=O)=O)C=CC=C2 | C35H30N4O6S
